US05270309
A solution of 4-amino-3-nitrotoluene (30.4 g) in acetic acid (250 ml) was refluxed with iodine monochloride (65.0 g) for 7 h with stirring, then was cooled and added to excess water. The precipitate was filtered off, washed with aqueous sodium sulfite and after column chromatography yielded 4-amino-3-iodo-5-nitrotoluene (14.2 g). δ (360 MHz, DMSO-d6) 2.19 (3H, s, CH3), 6.88 (2H, bs, NH2), 7.88 (1H, d, 2-H) and 7.94 (1H, d, 6-H).

reactant | 4-amino-3-nitrotoluene | 30.4 g | NC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H8N2O2
reactant | iodine monochloride | 65.0 g | ICl | ClI
reactant | water | O | H2O
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 4-amino-3-iodo-5-nitrotoluene | 14.2 g | NC1=C(C=C(C=C1[N+](=O)[O-])C)I | C7H7IN2O2
